US04528126
25 gm of norborn-5-en-2-carbaldehyde were added in drops to a mixture of 42 ml of 37% formalin and 12.3 gm of sodium hydroxide, dissolved in 36.9 ml of water, under stirring under a nitrogen atmosphere and water cooling over a period of 25 minutes. The temperature of the reaction mixture rose to 30° C. Subsequently the stirring was continued for another hour at 55° C., and then the reaction mixture was extracted with 50 ml of methylisobutyl ketone. The organic phase was washed with 50 ml of water, and the aqueous phase with 50 ml of methylisobutylketone. The combined organic phases were washed neutral, dried over sodium sulfate, and the solvent was distilled off. The residue was recrystallized from petroleum-ether (60-95)/toluene (1:1). The intermediate product, 2,2-di-hydroxymethyl-norborn-5-ene, was obtained in the form of colorless crystals with a yield of 77.6% of the theory, and had the following characteristics:

reactant | norborn-5-en-2-carbaldehyde | 25 gm | C12C(CC(C=C1)C2)C=O | C8H10O
reactant | formalin | 42 ml | C=O | CH2O
reactant | sodium hydroxide | 12.3 gm | [OH-].[Na+]
solvent | water | 36.9 ml | O | H2O
product | 2,2-di-hydroxymethyl-norborn-5-ene | yield of 77.6% | OCC1(C2C=CC(C1)C2)CO | C9H14O2
